US08106045B2
Aqueous sodium hydroxide (1M, 400 ml) was added to 2-bromo-(1S)-1-(4-bromophenyl)ethanol (77.0 g) in diethyl ether (400 ml) and stirred at room temperature for 5 hours. The organic layer was separated and water layer was extracted with ether. Combined organic layer was washed with brine and dried over anhydrous sodium sulfate. Removal of the solvent yielded (2S)-2-(4-bromophenyl)oxirane (55.0 g) as a pale brown oil.

reactant | sodium hydroxide | 1M, 400 ml | [OH-].[Na+]
reactant | 2-bromo-(1S)-1-(4-bromophenyl)ethanol | 77.0 g | BrC[C@@H](O)C1=CC=C(C=C1)Br | C8H8Br2O
solvent | diethyl ether | 400 ml | C(C)OCC | C4H10O
product | (2S)-2-(4-bromophenyl)oxirane | 55.0 g | BrC1=CC=C(C=C1)[C@@H]1OC1 | C8H7BrO
